US09403798B2
2-({[3-(4-Chlorobenzyl)ureido](methylthio)methylene}amino)-2-oxoethyl acetate
To a dichloromethane solution (2.0 mL) of methyl N-({[(4-chlorobenzen-1-yl)methyl]amino}carbonyl)-carbamimidothioate (257 mg, 1.00 mmol) synthesized in Reference Synthesis Example 326, triethylamine (279 μL, 2.00 mmol) and 2-chloro-2-oxoethyl acetate (162 μL, 1.50 mmol) were added and the resultant mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction solution was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (221 mg, yield 62%).

reactant | methyl N-({[(4-chlorobenzen-1-yl)methyl]amino}carbonyl)-carbamimidothioate | 1.00 mmol, 257 mg | ClC1=CC=C(C=C1)CNC(=O)NC(=N)SC | C10H12ClN3OS
reactant | triethylamine | 2.00 mmol, 279 μL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-2-oxoethyl acetate | 1.50 mmol, 162 μL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 2-({[3-(4-Chlorobenzyl)ureido](methylthio)methylene}amino)-2-oxoethyl acetate | 221 mg, yield 62% | C(C)(=O)OCC(=O)N=C(SC)NC(=O)NCC1=CC=C(C=C1)Cl | C14H16ClN3O4S
